### PR TITLE
[Merged by Bors] - feat: provide the ℓ² operator norm on matrices

### PR DESCRIPTION
**Pull request by j-loreaux**
This adds the (unique) C⋆-norm on matrices `Matrix n n 𝕜` with `IsROrC 𝕜` within the scope `Matrix.L2OpNorm`. This norm coincides with the operator norm induced by the ℓ² norm (i.e., the norm on `Matrix m n 𝕜` obtained by pulling back the norm from `EuclideanSpace 𝕜 n →L[𝕜] EuclideanSpace 𝕜 m`). Where possible, we state results for rectangular matrices.

---

- [x] depends on: #9468
- [x] depends on: #9471

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Review by eric-wieser — COMMENTED** [review]
Can you add a comment in `Analysis/Matrix` (which contains other norms) that notes that this result exists in another file?

File: Mathlib/Analysis/NormedSpace/Star/Matrix.lean [hunk 1]
```diff
@@ -70,3 +86,79 @@ theorem entrywise_sup_norm_bound_of_unitary {U : Matrix n n 𝕜} (hU : U ∈ Ma
 #align entrywise_sup_norm_bound_of_unitary entrywise_sup_norm_bound_of_unitary
 
 end EntrywiseSupNorm
+
+noncomputable section EuclideanSpaceOpNorm
+
+variable [Fintype n] [DecidableEq n] [IsROrC 𝕜]
+
+/-- The natural star algebra equivalence between matrices and continuous linear endomoporphisms
+of Euclidean space induced by the orthonormal basis `EuclideanSpace.basisFun`. -/
```
Comment (eric-wieser) [inline Mathlib/Analysis/NormedSpace/Star/Matrix.lean:95]:
```suggestion
/-- The natural star algebra equivalence between matrices and continuous linear endomoporphisms
of Euclidean space induced by the orthonormal basis `EuclideanSpace.basisFun`.

This is a more-bundled version of `Matrix.toEuclideanLin`, for the special case of square matrices. -/
```
Which of course raises the fact that we should probably have a version of this for rectangular matrices.

File: Mathlib/Analysis/NormedSpace/Star/Matrix.lean [hunk 2]
```diff
@@ -70,3 +86,79 @@ theorem entrywise_sup_norm_bound_of_unitary {U : Matrix n n 𝕜} (hU : U ∈ Ma
...
+def Matrix.toEuclideanClm :
+    Matrix n n 𝕜 ≃⋆ₐ[𝕜] (EuclideanSpace 𝕜 n →L[𝕜] EuclideanSpace 𝕜 n) :=
+  LinearMap.toMatrixOrthonormal (EuclideanSpace.basisFun n 𝕜) |>.symm.trans <|
+    { LinearMap.toContinuousLinearMap with
+      map_mul' := fun _ _ ↦ rfl
+      map_star' := LinearMap.adjoint_toContinuousLinearMap }
+
+/-- An auxiliary definition used only to construct the true `NormedRing` (and `Metric`) structure
+provided by `Matrix.instMetricSpaceCstar` and `Matrix.instNormedRingCstar`.  -/
+def Matrix.NormedRingAuxCstar : NormedRing (Matrix n n 𝕜) :=
```
Comment (eric-wieser) [inline Mathlib/Analysis/NormedSpace/Star/Matrix.lean:105]:
```suggestion
def Matrix.normedRingAuxCstar : NormedRing (Matrix n n 𝕜) :=
```

File: Mathlib/Analysis/NormedSpace/Star/Matrix.lean [hunk 3]
```diff
@@ -70,3 +86,79 @@ theorem entrywise_sup_norm_bound_of_unitary {U : Matrix n n 𝕜} (hU : U ∈ Ma
...
+  @NormedRing.induced ((Matrix n n 𝕜) ≃⋆ₐ[𝕜] (EuclideanSpace 𝕜 n →L[𝕜] EuclideanSpace 𝕜 n))
+    _ _ _ ContinuousLinearMap.toNormedRing _ _ Matrix.toEuclideanClm.injective
+
+open Bornology Filter
+open scoped Topology Uniformity
+
+/-- The metric on `Matrix n n 𝕜` arising from the operator norm given by the identification with
+(continuous) linear endmorphisms of `EuclideanSpace 𝕜 n`. -/
+def Matrix.instMetricSpaceCstar : MetricSpace (Matrix n n 𝕜) := by
```
Comment (eric-wieser) [inline Mathlib/Analysis/NormedSpace/Star/Matrix.lean:114]: Does this generalize to rectangular matrices too?

File: Mathlib/Analysis/NormedSpace/Star/Matrix.lean [hunk 4]
```diff
@@ -70,3 +86,79 @@ theorem entrywise_sup_norm_bound_of_unitary {U : Matrix n n 𝕜} (hU : U ∈ Ma
...
 
 end EntrywiseSupNorm
+
+noncomputable section EuclideanSpaceOpNorm
+
+variable [Fintype n] [DecidableEq n] [IsROrC 𝕜]
+
+/-- The natural star algebra equivalence between matrices and continuous linear endomoporphisms
+of Euclidean space induced by the orthonormal basis `EuclideanSpace.basisFun`. -/
+def Matrix.toEuclideanClm :
```
Comment (eric-wieser) [inline Mathlib/Analysis/NormedSpace/Star/Matrix.lean:96]: Please add some `simp` lemmas along the lines of

https://github.com/leanprover-community/mathlib4/blob/b180173c90858e2031655e09a7165dbf1048324a/Mathlib/Analysis/InnerProductSpace/PiL2.lean#L1018C1-L1029

File: Mathlib/Analysis/NormedSpace/Star/Matrix.lean (hunk 1 above)
Comment (j-loreaux) [reply Mathlib/Analysis/NormedSpace/Star/Matrix.lean:95]: I don't think we actually want a version of this for rectangular matrices, at least not as a separate `def`. That's because for rectangular matrices, using orthonormal bases doesn't really buy you any extra structure, at least not in the form of bundled maps. The best you can do is still `≃ₗ[𝕜]`, at which point you can simply write:
```lean
(Matrix.toEuclideanLin.trans LinearMap.toContinuousLinearMap : Matrix m n 𝕜 ≃ₗ[𝕜] (EuclideanSpace 𝕜 n →L[𝕜] EuclideanSpace 𝕜 m))
```
So it's just `LinearEquiv.trans` of two existing equivalences.

Comment (eric-wieser) [reply Mathlib/Analysis/NormedSpace/Star/Matrix.lean:95]: It's true more generally in TVS, where `LinearMap.toContinuousLinearMap` isn't available.

File: Mathlib/Analysis/NormedSpace/Star/Matrix.lean (hunk 3 above)
Comment (j-loreaux) [reply Mathlib/Analysis/NormedSpace/Star/Matrix.lean:114]: yes, I have now rewritten to generalize everything to rectangular matrices that can be so generalized.

Comment (eric-wieser) [reply Mathlib/Analysis/NormedSpace/Star/Matrix.lean:114]: It looks like you haven't pushed?

Comment (j-loreaux) [reply Mathlib/Analysis/NormedSpace/Star/Matrix.lean:114]: Indeed, I meant to finish up, but got distracted.

File: Mathlib/Analysis/NormedSpace/Star/Matrix.lean (hunk 1 above)
Comment (j-loreaux) [reply Mathlib/Analysis/NormedSpace/Star/Matrix.lean:95]: That just means we need to generalize `LinearMap.toContinuousLinearMap`?

Comment (j-loreaux) [reply Mathlib/Analysis/NormedSpace/Star/Matrix.lean:100]: @eric-wieser now I'm really confused because I just looked at [LinearMap.toContinuousLinearMap](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Topology/Algebra/Module/FiniteDimension.html#LinearMap.toContinuousLinearMap) and found that it already holds in a TVS. So what are you arguing for here?

Comment (eric-wieser) [reply Mathlib/Analysis/NormedSpace/Star/Matrix.lean:100]: Sorry, I must have mis-remembered the generality of `LinearMap.toContinuousLinearMap`; indeed, my suggestion would be redundant here. Maybe there's some extra generality to eek out for `WithLp` over rings, but that's out of scope here.

Comment (eric-wieser) [reply Mathlib/Analysis/NormedSpace/Star/Matrix.lean:100]: Can you still update the docstring to reference `Matrix.toEuclideanLin` as I suggest above? Adding a lemma making the link explicit would also be good.

File: Mathlib/Analysis/NormedSpace/Star/Matrix.lean [hunk 5]
```diff
@@ -70,3 +88,122 @@ theorem entrywise_sup_norm_bound_of_unitary {U : Matrix n n 𝕜} (hU : U ∈ Ma
...
+/-- The norm structure on `Matrix m n 𝕜` arising from the operator norm given by the identification
+with (continuous) linear maps of `EuclideanSpace`. -/
+def instNormedAddCommGroupL2Op : NormedAddCommGroup (Matrix m n 𝕜) where
+  norm := normedAddCommGroupAuxL2Op.norm
+  dist_eq := normedAddCommGroupAuxL2Op.dist_eq
+
+scoped[Matrix.L2OpNorm] attribute [instance] Matrix.instNormedAddCommGroupL2Op
+
+lemma op_norm_def (x : Matrix m n 𝕜) :
+    ‖x‖ = ‖(toEuclideanLin (𝕜 := 𝕜) (m := m) (n := n)).trans toContinuousLinearMap x‖ := rfl
```
Comment (eric-wieser) [inline Mathlib/Analysis/NormedSpace/Star/Matrix.lean:165]: Can you add the `nnnorm` version too?

File: Mathlib/Analysis/NormedSpace/Star/Matrix.lean [hunk 6]
```diff
@@ -70,3 +88,122 @@ theorem entrywise_sup_norm_bound_of_unitary {U : Matrix n n 𝕜} (hU : U ∈ Ma
...
+    rw [op_norm_def, LinearEquiv.map_smul]
+    exact norm_smul_le r ((toEuclideanLin (𝕜 := 𝕜) (m := m) (n := n)).trans toContinuousLinearMap x)
+
+scoped[Matrix.L2OpNorm] attribute [instance] Matrix.instNormedSpaceL2Op
+
+/-- The normed ring structure on `Matrix n n 𝕜` arising from the operator norm given by the
+identification with (continuous) linear endmorphisms of `EuclideanSpace 𝕜 n`. -/
+def instNormedRingL2Op : NormedRing (Matrix n n 𝕜) where
+  dist_eq := normedRingAuxL2Op.dist_eq
+  norm_mul := normedRingAuxL2Op.norm_mul
```
Comment (eric-wieser) [inline Mathlib/Analysis/NormedSpace/Star/Matrix.lean:185]: Can you prove this result for rectangular matrices like we do for the other matrix norms?

File: Mathlib/Analysis/InnerProductSpace/Adjoint.lean [hunk 7]
```diff
@@ -505,20 +505,44 @@ theorem im_inner_adjoint_mul_self_eq_zero (T : E →ₗ[𝕜] E) (x : E) :
...
-namespace Matrix
+section Matrix
+
+open Matrix LinearMap
 
 variable {m n : Type*} [Fintype m] [DecidableEq m] [Fintype n] [DecidableEq n]
+variable [FiniteDimensional 𝕜 E] [FiniteDimensional 𝕜 F]
+variable (v₁ : OrthonormalBasis n 𝕜 E) (v₂ : OrthonormalBasis m 𝕜 F)
+
+/- the linear map associated to the conjugate transpose of a matrix corresponding to two
```
Comment (eric-wieser) [inline Mathlib/Analysis/InnerProductSpace/Adjoint.lean:516]:
```suggestion
/-- The linear map associated to the conjugate transpose of a matrix corresponding to two
```

File: Mathlib/Analysis/NormedSpace/Star/Matrix.lean (hunk 1 above)
Comment (j-loreaux) [reply Mathlib/Analysis/NormedSpace/Star/Matrix.lean]: done and done

**Comment by eric-wieser** [comment]
> Can you add a comment in `Analysis/Matrix` (which contains other norms) that notes that this result exists in another file?

Can you do this?

File: Mathlib/Analysis/NormedSpace/Star/Matrix.lean [hunk 8]
```diff
@@ -70,3 +89,151 @@ theorem entrywise_sup_norm_bound_of_unitary {U : Matrix n n 𝕜} (hU : U ∈ Ma
...
+
+lemma l2_op_nnnorm_def (A : Matrix m n 𝕜) :
+    ‖A‖₊ = ‖(toEuclideanLin (𝕜 := 𝕜) (m := m) (n := n)).trans toContinuousLinearMap A‖₊ := rfl
+
+-- note: with only a type ascription in the left-hand side, Lean picks the wrong norm.
+lemma l2_op_norm_mulVec (A : Matrix m n 𝕜) (x : EuclideanSpace 𝕜 n) :
+    ‖(EuclideanSpace.equiv m 𝕜).symm <| A.mulVec x‖ ≤ ‖A‖ * ‖x‖ :=
+  toEuclideanLin (n := n) (m := m) (𝕜 := 𝕜) |>.trans toContinuousLinearMap A |>.le_op_norm x
+
+lemma l2_op_nnnorm_mulVec_le (A : Matrix m n 𝕜) (x : EuclideanSpace 𝕜 n) :
```
Comment (eric-wieser) [inline Mathlib/Analysis/NormedSpace/Star/Matrix.lean:183]:
```suggestion
lemma l2_op_nnnorm_mulVec (A : Matrix m n 𝕜) (x : EuclideanSpace 𝕜 n) :
```
to match the other three lemmas

File: Mathlib/Analysis/NormedSpace/Star/Matrix.lean [hunk 9]
```diff
@@ -70,3 +89,151 @@ theorem entrywise_sup_norm_bound_of_unitary {U : Matrix n n 𝕜} (hU : U ∈ Ma
...
+    ‖(EuclideanSpace.equiv m 𝕜).symm <| A.mulVec x‖₊ ≤ ‖A‖₊ * ‖x‖₊ :=
+  A.l2_op_norm_mulVec x
+
+lemma l2_op_norm_mul {l : Type*} [Fintype l] [DecidableEq l] (A : Matrix m n 𝕜) (B : Matrix n l 𝕜) :
```
Comment (eric-wieser) [inline Mathlib/Analysis/NormedSpace/Star/Matrix.lean:187]: Can you hoist `{l : Type*}` to wherever `m` and `n` are declared, to ensure the arguments end up adjacent?

File: Mathlib/Analysis/NormedSpace/Star/Matrix.lean [hunk 10]
```diff
@@ -70,3 +89,151 @@ theorem entrywise_sup_norm_bound_of_unitary {U : Matrix n n 𝕜} (hU : U ∈ Ma
...
+identification with (continuous) linear endmorphisms of `EuclideanSpace 𝕜 n`. -/
+def instNormedRingL2Op : NormedRing (Matrix n n 𝕜) where
+  dist_eq := normedRingAuxL2Op.dist_eq
+  norm_mul := normedRingAuxL2Op.norm_mul
+
+scoped[Matrix.L2OpNorm] attribute [instance] Matrix.instNormedRingL2Op
+
+lemma cstar_norm_def (A : Matrix n n 𝕜) : ‖A‖ = ‖toEuclideanClm (n := n) (𝕜 := 𝕜) A‖ := rfl
+
+lemma cstar_nnnorm_def (A : Matrix n n 𝕜) : ‖A‖₊ = ‖toEuclideanClm (n := n) (𝕜 := 𝕜) A‖₊ := rfl
```
Comment (eric-wieser) [inline Mathlib/Analysis/NormedSpace/Star/Matrix.lean:219]: A brief comparison would be good here, perhaps:
```suggestion
/-- This is the same as `Matrix.l2_op_norm_def`, but with a more bundled RHS for square matrices. -/
lemma cstar_norm_def (A : Matrix n n 𝕜) : ‖A‖ = ‖toEuclideanClm (n := n) (𝕜 := 𝕜) A‖ := rfl

/-- This is the same as `Matrix.l2_op_nnnorm_def`, but with a more bundled RHS for square matrices. -/
lemma cstar_nnnorm_def (A : Matrix n n 𝕜) : ‖A‖₊ = ‖toEuclideanClm (n := n) (𝕜 := 𝕜) A‖₊ := rfl
```

File: Mathlib/Analysis/NormedSpace/Star/Matrix.lean [hunk 11]
```diff
@@ -70,3 +89,151 @@ theorem entrywise_sup_norm_bound_of_unitary {U : Matrix n n 𝕜} (hU : U ∈ Ma
...
+/-- The normed algebra structure on `Matrix n n 𝕜` arising from the operator norm given by the
+identification with (continuous) linear endmorphisms of `EuclideanSpace 𝕜 n`. -/
+def instNormedAlgebraL2Op : NormedAlgebra 𝕜 (Matrix n n 𝕜) where
+  norm_smul_le := norm_smul_le
+
+scoped[Matrix.L2OpNorm] attribute [instance] Matrix.instNormedAlgebraL2Op
+
+/-- The operator norm on `Matrix n n 𝕜` given by the identification with (continuous) linear
+endmorphisms of `EuclideanSpace 𝕜 n` makes it into a `L2OpRing`. -/
+lemma instCstarRing : CstarRing (Matrix n n 𝕜) where
```
Comment (eric-wieser) [inline Mathlib/Analysis/NormedSpace/Star/Matrix.lean:230]: Is `NormOneClass` true too? Or is it automatic from `CstarRing`?

Comment (j-loreaux) [reply Mathlib/Analysis/NormedSpace/Star/Matrix.lean:230]: Should be automatic with `Nontrivial (Matrix n n 𝕜)`, which holds whenever `n` is nonempty.

File: Mathlib/Analysis/NormedSpace/Star/Matrix.lean [hunk 12]
```diff
@@ -70,3 +89,151 @@ theorem entrywise_sup_norm_bound_of_unitary {U : Matrix n n 𝕜} (hU : U ∈ Ma
...
+def instNormedSpaceL2Op : NormedSpace 𝕜 (Matrix m n 𝕜) where
+  norm_smul_le r x := by
+    rw [l2_op_norm_def, LinearEquiv.map_smul]
+    exact norm_smul_le r ((toEuclideanLin (𝕜 := 𝕜) (m := m) (n := n)).trans toContinuousLinearMap x)
+
+scoped[Matrix.L2OpNorm] attribute [instance] Matrix.instNormedSpaceL2Op
+
+/-- The normed ring structure on `Matrix n n 𝕜` arising from the operator norm given by the
+identification with (continuous) linear endmorphisms of `EuclideanSpace 𝕜 n`. -/
+def instNormedRingL2Op : NormedRing (Matrix n n 𝕜) where
```
Comment (eric-wieser) [inline Mathlib/Analysis/NormedSpace/Star/Matrix.lean:211]: In the other file we call the analogous construction `linftyOpNormedRing`. I don't mind leaving the renaming of the old defs to a follow-up if you prefer these names, but we should decide which ones we want now

Comment (j-loreaux) [reply Mathlib/Analysis/NormedSpace/Star/Matrix.lean:211]: I can switch them here to `instL2OpNormed...`

**Comment by eric-wieser** [comment]
In `Analysis/Matrix` we also have:
```lean
@[simp]
theorem linfty_op_nnnorm_col (v : m → α) : ‖col v‖₊ = ‖v‖₊ := by

@[simp]
theorem linfty_op_norm_col (v : m → α) : ‖col v‖ = ‖v‖ :=

@[simp]
theorem linfty_op_nnnorm_row (v : n → α) : ‖row v‖₊ = ∑ i, ‖v i‖₊ :=

@[simp]
theorem linfty_op_norm_row (v : n → α) : ‖row v‖ = ∑ i, ‖v i‖ :=

@[simp]
theorem linfty_op_nnnorm_diagonal [DecidableEq m] (v : m → α) : ‖diagonal v‖₊ = ‖v‖₊ :=

@[simp]
theorem linfty_op_norm_diagonal [DecidableEq m] (v : m → α) : ‖diagonal v‖ = ‖v‖ :=
```
Are any of these lemmas trivially true/stateable for the C-* norm?

**Comment by j-loreaux** [comment]
Only the diagonal one, but I'm not sure we have the machinery to prove it easily at the moment.

**Comment by j-loreaux** [comment]
I left a TODO for the diagonal result.

**Comment by j-loreaux** [comment]
I guess there are versions of `row` and `column` which should hold too. Earlier I took your question too literally. But let's just leave it be for now.

File: Mathlib/Analysis/NormedSpace/Star/Matrix.lean [hunk 13]
```diff
@@ -70,3 +92,155 @@ theorem entrywise_sup_norm_bound_of_unitary {U : Matrix n n 𝕜} (hU : U ∈ Ma
...
+    ‖A * B‖ ≤ ‖A‖ * ‖B‖ := by
+  simp only [l2_op_norm_def]
+  have := (toEuclideanLin (n := n) (m := m) (𝕜 := 𝕜) ≪≫ₗ toContinuousLinearMap) A
+    |>.op_norm_comp_le <| (toEuclideanLin (n := l) (m := n) (𝕜 := 𝕜) ≪≫ₗ toContinuousLinearMap) B
+  convert this
+  ext1 x
+  exact congr($(Matrix.toLin'_mul A B) x)
+
+lemma l2_op_nnnorm_mul (A : Matrix m n 𝕜)
+    (B : Matrix n l 𝕜) : ‖A * B‖₊ ≤ ‖A‖₊ * ‖B‖₊ :=
```
Comment (eric-wieser) [inline Mathlib/Analysis/NormedSpace/Star/Matrix.lean:201]: nit: weird line wrapping
```suggestion
lemma l2_op_nnnorm_mul (A : Matrix m n 𝕜) (B : Matrix n l 𝕜) : ‖A * B‖₊ ≤ ‖A‖₊ * ‖B‖₊ :=
```

File: Mathlib/Analysis/NormedSpace/Star/Matrix.lean [hunk 14]
```diff
@@ -3,23 +3,45 @@ Copyright (c) 2022 Hans Parshall. All rights reserved.
...
+* `entry_norm_bound_of_unitary`: the entries of a unitary matrix are uniformly boundd by `1`.
+
+## Implementation details
+
+We take care to ensure the topology and uniformity induced by `Matrix.instMetricSpaceL2Op`
+coincide with the existing topology and uniformity on matrices.
+
+## TODO
+
+* Show that `‖diagonal (v : n → 𝕜)‖ = ‖v‖`.
```
Comment (eric-wieser) [inline Mathlib/Analysis/NormedSpace/Star/Matrix.lean:38]: Another good TODO would be the one in your PR description, or perhaps the simpler `‖Aᴴ‖ = ‖A‖`.

**Review by eric-wieser — APPROVED** [review]
Thanks

bors d+

I think CI wants you to use `WithLp.equiv` instead of `EuclideanSpace.equiv` in lemma statements (I agree with it)

**Comment by eric-wieser** [comment]
> Note: The C⋆-property actually holds for rectangular matrices too, but we're not including it here for now because we don't have the corresponding statement for continuous linear maps (i.e., between different spaces). In other words, it is possible to show, but we don't yet have it, that for `A : E →L[𝕜] F`,

#9569 does this generalization, though indeed it doesn't give us access to any of the other CstarRing results, like `norm_star`.

**Comment by j-loreaux** [comment]
bors merge

File: Mathlib/Analysis/NormedSpace/Star/Matrix.lean [hunk 15]
```diff
@@ -70,3 +92,162 @@ theorem entrywise_sup_norm_bound_of_unitary {U : Matrix n n 𝕜} (hU : U ∈ Ma
...
+lemma l2_op_norm_def (A : Matrix m n 𝕜) :
+    ‖A‖ = ‖(toEuclideanLin (𝕜 := 𝕜) (m := m) (n := n)).trans toContinuousLinearMap A‖ := rfl
+
+lemma l2_op_nnnorm_def (A : Matrix m n 𝕜) :
+    ‖A‖₊ = ‖(toEuclideanLin (𝕜 := 𝕜) (m := m) (n := n)).trans toContinuousLinearMap A‖₊ := rfl
+
+lemma l2_op_norm_conjTranspose (A : Matrix m n 𝕜) : ‖Aᴴ‖ = ‖A‖ := by
+  rw [l2_op_norm_def, toEuclideanLin_eq_toLin_orthonormal, LinearEquiv.trans_apply,
+    toLin_conjTranspose, adjoint_toContinuousLinearMap]
+  exact ContinuousLinearMap.adjoint.norm_map _
```
Comment (eric-wieser) [inline Mathlib/Analysis/NormedSpace/Star/Matrix.lean:185]: Can you add the `nnnorm` version too?
